US04725531
(1) Synthesis of 3-cyano-1-(2-methylphenyl)-5-pyrazolone
22.5 g of 3-carbamoyl-1-(2-methylphenyl)-5-pyrazolone and 150 ml of acetonitrile were put into a 300 ml three-necked flask. A mixture solution of 35 ml of phosphorus oxychloride and 100 ml of N,N-dimethylformamide was added dropwise thereto at a temperature of 15° C. or below. After completion of the dropwise addition, the reaction mixture was poured into ice water and the crystals thus deposited were collected by filtration.

reactant | 3-carbamoyl-1-(2-methylphenyl)-5-pyrazolone | 22.5 g | C(N)(=O)C=1NN(C(C1)=O)C1=C(C=CC=C1)C | C11H11N3O2
reactant | acetonitrile | 150 ml | C(C)#N | C2H3N
reactant | phosphorus oxychloride | 35 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-cyano-1-(2-methylphenyl)-5-pyrazolone | C(#N)C=1NN(C(C1)=O)C1=C(C=CC=C1)C | C11H9N3O
